* Day 045 front-end demo - conductivity sensor using MAX9926
.param FHP=0.20 FLP=160
Bsig VIN 0 V=1m*sin(2*pi*1.2,time) + 0.5m*sin(2*pi*50,time)

* Power rails
VCC VCC 0 DC 3.3
Cdec VCC 0 10u

* Mid-rail reference
Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

* Input coupling
C1 VIN NIN 1u
Rbias NIN VREF 795775

* Non-inverting preamp (~35x)
* Replace E1 with vendor model for MAX9926
E1 OUT 0 NIN NNEG 1e5
Rfb OUT NNEG 34000
Rin NNEG VREF 1000

* Output filter around mid-rail
Rlp OUT VOUT 10000
Clp VOUT VREF 9.947e-08

Cout VOUT ADC_IN 1u
Radc ADC_IN 0 100k

.ac dec 100 0.1 100k
.tran 0 2

.control
run
.endc
.end
